US09163019B2
a3.1) 2,2-Difluoro-2-(quinolin-2-yl)-acetic acid ethyl ester
A mixture of 2-bromoquinoline (5.0 g, 24.0 mmol), ethyl 2-bromo-2,2-difluoroacetate (5.8 g, 28.8 mmol) and copper power (3.5 g, 55.2 mmol) in DMSO (20 ml) was stirred at 55° C. for 5 hours. The solid was filtered off and water (100 ml) and EA (150 ml) were added. The organic layer was separated and evaporated and concentrated to give the title product (4.2 g, 70%) which was used for the next step without further purification. LC-MS (ESI+): m/e 252 (M+H)+, Rt: 0.934 min/2.5 min.

reactant | 2-bromoquinoline | 24.0 mmol, 5.0 g | BrC1=NC2=CC=CC=C2C=C1 | C9H6BrN
reactant | ethyl 2-bromo-2,2-difluoroacetate | 28.8 mmol, 5.8 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
catalyst | copper | [Cu] | Cu
product | 2,2-Difluoro-2-(quinolin-2-yl)-acetic acid ethyl ester | 4.2 g, 70% | C(C)OC(C(C1=NC2=CC=CC=C2C=C1)(F)F)=O | C13H11F2NO2
